US04107326
1,3-Dibenzyl-2-methylthiopseudourea hydroiodide
A solution of 25.6 g. of 1,3-dibenzylthiourea and 10 ml. of methyl iodide in 500 ml. of absolute ethanol is heated at reflux for 16 hours to give a solution of the desired product.

reactant | 1,3-dibenzylthiourea | C(C1=CC=CC=C1)NC(=S)NCC1=CC=CC=C1 | C15H16N2S
reactant | methyl iodide | CI | CH3I
solvent | ethanol | C(C)O | C2H6O
product | 1,3-Dibenzyl-2-methylthiopseudourea hydroiodide | I.C(C1=CC=CC=C1)NC(SC)=NCC1=CC=CC=C1 | InChI=1S/C16H18N2S.HI/c1-19-16(17-12-14-8-4-2-5-9-14)18-13-15-10-6-3-7-11-15;/h2-11H,12-13H2,1H3,(H,17,18);1H
